US07425638B2
4-(Morpholine-4-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (39 mg) was dissolved in 4 mL of dioxane, and 4 mL of 4.0 M hydrochloric acid in dioxane was added. After standing overnight at ambient temperature, the solvent was removed to give 4-(piperazine-1-sulfonyl)-morpholine hydrochloride as a white solid.

reactant | 4-(Morpholine-4-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)N1CCOCC1 | C13H25N3O5S
reactant | hydrochloric acid | 4.0 M, 4 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-(piperazine-1-sulfonyl)-morpholine hydrochloride | Cl.N1(CCNCC1)S(=O)(=O)N1CCOCC1 | InChI=1S/C8H17N3O3S.ClH/c12-15(13,10-3-1-9-2-4-10)11-5-7-14-8-6-11;/h9H,1-8H2;1H
